US07071337B2
{1-[2-(5-Methoxy-benzoimidazol-1-yl)-quinolin-8-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester G (8.40 g, 17.7 mmol) was dissolved in 50 mL of trifluoroacetic acid (TFA) under an atmosphere of dry N2. The reaction mixture was stirred at ambient temperature for 15 minutes after which time it was concentrated under vacuum to give a yellow oil. The oil was partitioned between DCM and 0.1N aqueous NaOH. The DCM layer was washed again with 0.1N aqueous NaOH. The DCM layer was dried over Na2SO4, filtered and concentrated to give 5.85 g of 1-[2-(5-Methoxy-benzoimidazol-1-yl)-quinolin-8-yl]-piperidin-4-ylamine as a yellow solid. C.I. m/z 374 [M+1]; 1H NMR (CDCl3) δ 8.66 (s, 1 H), 8.37 (d, J=8.9 Hz, 1 H), 8.30 (d, J=8.7 Hz, 1 H), 7.68 (d, J=8.9 Hz, 1 H), 7.47 (m, 2 H), 7.35 (d, J=2.3 Hz, 1 H), 7.25 (m, 1 H), 7.06 (dd, J=2.5, 8.9 Hz, 1 H), 3.91 (s, 3 H), 3.88 (m, 2 H), 2.90 (m, 3 H), 2.05 (m, 2 H), 1.83 (m, 2 H), 1.50 (brs, 2 H).

reactant | {1-[2-(5-Methoxy-benzoimidazol-1-yl)-quinolin-8-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)C=1C=CC=C2C=CC(=NC12)N1C=NC2=C1C=CC(=C2)OC)=O | C27H31N5O3
solvent | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[2-(5-Methoxy-benzoimidazol-1-yl)-quinolin-8-yl]-piperidin-4-ylamine | 5.85 g | COC1=CC2=C(N(C=N2)C2=NC3=C(C=CC=C3C=C2)N2CCC(CC2)N)C=C1 | C22H23N5O
